US06673797B1
(1) Preparation of 2-(4-Hydroxy-tetrahydro-4H-4-pyranyl)-5-methylthio-1-benzenesulfonylindole
To a solution of 5-methylthio-1-benzenesulfonylindole (200 mg ) in tetrahydrofuran (5 ml), n-butyl lithium (0.49 ml, 1.61 M) was added at −78° C. under nitrogen atmosphere and the mixture was stirred at −78° C. for 30 minutes, followed by addition of hexamethylphosphoric triamide (0.23 ml), and the mixture was stirred for 15 minutes. Subsequently, tetrahydro-4H-pyran-4-one (0.12 ml) was added thereto and the mixture was stirred at −78° C. for 15 minutes and heated to 15 to 30° C. The reaction solution was then poured into a saturated aqueous ammonium chloride solution, extracted with dichloromethane, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel preparative thin-layer chromatography (hexane:ethyl acetate=1:1) and (methanol:chloroform=1:20) to obtain 39 mg of the desired product as a colorless oil.

reactant | 5-methylthio-1-benzenesulfonylindole | 200 mg | CSC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1 | C15H13NO2S2
reactant | hexamethylphosphoric triamide | 0.23 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | tetrahydro-4H-pyran-4-one | 0.12 ml | O1CCC(CC1)=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | 1.61 M, 0.49 ml | C(CCC)[Li]
product | 2-(4-Hydroxy-tetrahydro-4H-4-pyranyl)-5-methylthio-1-benzenesulfonylindole | 39 mg | OC1(CCOCC1)C=1N(C2=CC=C(C=C2C1)SC)S(=O)(=O)C1=CC=CC=C1 | C20H21NO4S2
